US03983111
21-Bromo-3α-hydroxypregn-4-ene-11,20-dione
4β,21-Dibromo-3α-hydroxy-5α-pregnane-11,20-dione (200 mg.) in dry dimethyl acetamide (10 ml.) was treated with calofort U (1.5 g.) and lithium bromide (0.9 g.). The mixture was stirred at 85° for 31/2 hours. The reaction mixture was filtered, and the solid residue was washed with ether and ethyl acetate. The combined filtrate and washings were washed well (5 times) with water, dried over sodium sulphate and evaporated to a brown oil which was purified by preparative T.L.C. in ethyl acetate/petrol 1/1, the main band yielding title compound (70 mg.) as a colourless foam, [α]D + 140°.

reactant | 4β,21-Dibromo-3α-hydroxy-5α-pregnane-11,20-dione | 200 mg | Br[C@@H]1[C@@H]2CC[C@H]3[C@@H]4CC[C@H](C(CBr)=O)[C@]4(CC([C@@H]3[C@]2(CC[C@H]1O)C)=O)C | C21H30Br2O3
reactant | calofort U | 1.5 g | C(=O)([O-])[O-].[Ca+2]
reactant | lithium bromide | 0.9 g | [Br-].[Li+]
solvent | dimethyl acetamide | 10 ml | CC(=O)N(C)C | C4H9NO
product | 21-Bromo-3α-hydroxypregn-4-ene-11,20-dione | 70 mg | BrCC([C@H]1CC[C@H]2[C@@H]3CCC4=C[C@@H](CC[C@]4(C)[C@H]3C(C[C@]12C)=O)O)=O | C21H29BrO3
